US06716859B2
Biphenyl-2-carboxylic acid (3-trifluoromethyl-benzylidene)-hydrazide
To a stirred solution of biphenyl-2-carboxylic acid-hydrazide (0.212 g, 1.0 mmol) in 20 mL EtOH was added 3-trifluoromethyl-benzaldehyde (0.174 g, 1.0 mmol) in 5 mL EtOH at room temperature. The mixture was refluxed for 4 h and cooled to room temperature, then was diluted by 100 mL of water. The precipitate was collected, washed with MeOH, and dried to yield the title compound (0.320 g, 87%). 1H NMR (acetone-d6): 11.60 (s, 1H), 7.79 (s, 1H), 7.57 (s, 1H), 7.52 (d, J=12 Hz, 1H), 7.35 (d, J=12 Hz, 1H), 6.97˜7.15 (m, 10H).

reactant | biphenyl-2-carboxylic acid-hydrazide | 1.0 mmol, 0.212 g | C=1(C(=CC=CC1)C(=O)NN)C1=CC=CC=C1 | C13H12N2O
reactant | 3-trifluoromethyl-benzaldehyde | 1.0 mmol, 0.174 g | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | water | 100 mL | O | H2O
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | EtOH | 5 mL | CCO | C2H6O
product | Biphenyl-2-carboxylic acid (3-trifluoromethyl-benzylidene)-hydrazide | 0.320 g, 87% | FC(C=1C=C(C=NNC(=O)C=2C(=CC=CC2)C2=CC=CC=C2)C=CC1)(F)F | C21H15F3N2O
